* MCP4451 - Quad 8-bit (257-step) I2C digital potentiometer - BEHAVIORAL MODEL
*
* Microchip does not publish a SPICE model for the MCP44x1 family, so this is
* a hand-written static model built from the datasheet (DS22267A):
*   RAB          5k / 10k / 50k / 100k (part suffix -502/-103/-503/-104)
*   RW           75 ohm typical wiper resistance (up to 300 ohm at 2.7 V)
*   CODE         0x000..0x100 (0..256). 0 = zero scale (W = B),
*                256 = full scale (W = A).
*   RWB = RAB*CODE/256 + RW,   RAW = RAB*(256-CODE)/256 + RW
*   CA 75 pF, CW 120 pF, CB 75 pF (datasheet, f = 1 MHz, full scale)
*
* The wiper position is a fixed parameter per simulation - the I2C interface
* is not modelled. Sweep it with .step / .param or KiCad's parameter fields.
* Not modelled: RW vs voltage/current, INL/DNL, tempco, terminal voltage
* limits, power-up/reset behaviour.
*
* ---------------------------------------------------------------------------
* Single pot section. Use this per KiCad unit if you prefer to simulate one
* potentiometer at a time.
*   A W B  -> terminal A, wiper, terminal B

.SUBCKT MCP44X1_POT A W B
+ PARAMS: RAB=10k CODE=128 RW=75 CA=75p CW=120p CB=75p
.PARAM N = {MIN(MAX(CODE,0),256)}
RA A X {MAX(RAB*(256-N)/256, 1m)}
RB X B {MAX(RAB*N/256, 1m)}
RWIP X W {RW}
C_A A 0 {CA}
C_W W 0 {CW}
C_B B 0 {CB}
.ENDS MCP44X1_POT

* ---------------------------------------------------------------------------
* Full MCP4451 in TSSOP-20 pin order, so KiCad's MCP4451-xxxx-ST symbol maps
* 1:1 (the digital pins are just loaded with small resistors):
*   1 P3A  2 P3W  3 P3B  4 HVC/A0  5 SCL  6 SDA  7 VSS  8 P1B  9 P1W  10 P1A
*  11 P0A 12 P0W 13 P0B 14 NC     15 /RESET 16 A1 17 VDD 18 P2B 19 P2W 20 P2A
* Pot capacitances return to VSS.

.SUBCKT MCP4451 P3A P3W P3B HVC SCL SDA VSS P1B P1W P1A
+ P0A P0W P0B NC RESET A1 VDD P2B P2W P2A
+ PARAMS: RAB=10k RW=75 CODE0=128 CODE1=128 CODE2=128 CODE3=128
XP0 P0A P0W P0B VSS MCP44X1_POTG PARAMS: RAB={RAB} RW={RW} CODE={CODE0}
XP1 P1A P1W P1B VSS MCP44X1_POTG PARAMS: RAB={RAB} RW={RW} CODE={CODE1}
XP2 P2A P2W P2B VSS MCP44X1_POTG PARAMS: RAB={RAB} RW={RW} CODE={CODE2}
XP3 P3A P3W P3B VSS MCP44X1_POTG PARAMS: RAB={RAB} RW={RW} CODE={CODE3}
* ~ 2.5 uA typical static supply current at 5.5 V
RVDD VDD VSS 2.2MEG
* Keep digital pins from floating in the netlist
RHVC HVC VSS 1G
RSCL SCL VSS 1G
RSDA SDA VSS 1G
RRST RESET VSS 1G
RA1 A1 VSS 1G
RNC NC VSS 1G
.ENDS MCP4451

* Pot section with an explicit capacitance return node
.SUBCKT MCP44X1_POTG A W B G
+ PARAMS: RAB=10k CODE=128 RW=75 CA=75p CW=120p CB=75p
.PARAM N = {MIN(MAX(CODE,0),256)}
RA A X {MAX(RAB*(256-N)/256, 1m)}
RB X B {MAX(RAB*N/256, 1m)}
RWIP X W {RW}
C_A A G {CA}
C_W W G {CW}
C_B B G {CB}
.ENDS MCP44X1_POTG
