.SUBCKT MCP601 1 2 3 4 5
*              | | | | |
*              | | | | Output
*              | | | Negative Supply
*              | | Positive Supply
*              | Inverting Input
*              Non-inverting Input
*
********************************************************************************
* Software License Agreement                                                   *
*                                                                              *
* The software supplied herewith by Microchip Technology Incorporated (the     *
* "Company") is intended and supplied to you, the Company's customer, for use  *
* soley and exclusively on Microchip products.                                 *
*                                                                              *
* The software is owned by the Company and/or its supplier, and is protected   *
* under applicable copyright laws. All rights are reserved. Any use in         *
* violation of the foregoing restrictions may subject the user to criminal     *
* sanctions under applicable laws, as well as to civil liability for the       *
* breach of the terms and conditions of this license.                          *
*                                                                              *
* THIS SOFTWARE IS PROVIDED IN AN "AS IS" CONDITION. NO WARRANTIES, WHETHER    *
* EXPRESS, IMPLIED OR STATUTORY, INCLUDING, BUT NOT LIMITED TO, IMPLIED        *
* WARRANTIES OF MERCHANTABILITY AND FITNESS FOR A PARTICULAR PURPOSE APPLY TO  *
* THIS SOFTWARE. THE COMPANY SHALL NOT, IN ANY CIRCUMSTANCES, BE LIABLE FOR    *
* SPECIAL, INCIDENTAL OR CONSEQUENTIAL DAMAGES, FOR ANY REASON WHATSOEVER.     *
********************************************************************************
*
* Macromodel for the MCP601/2/3/4 op amp family:
*   MCP601 (single)
*   MCP602 (dual)
*   MCP603 (single w/ CS; chip select is not modeled)
*   MCP604 (quad)
*
* Revision History:
*   REV A: 30-Jun-99, BCB (created model)
*   REV B: 10-Jul-99, BCB (corrected DC Iq)
*   REV C: 30-Nov-99, BCB (".subckt" on first line, moved L, W to model)
*   REV D: 17-Jul-02, KEB (improved model)
*
* Recommendations:
*   Use PSPICE (or SPICE 2G6; other simulators may require translation)
*   For a quick, effective design, use a combination of: data sheet
*     specs, bench testing, and simulations with this macromodel
*   For high impedance circuits, set GMIN=100F in the .OPTIONS
*     statement
*
* Supported:
*   Typical performance at room temperature (25 degrees C)
*   DC, AC, Transient, and Noise analyses.
*   Most specs, including: offsets, DC PSRR, DC CMRR, input impedance,
*     open loop gain, voltage ranges, supply current, ... , etc.
*
* Not Supported:
*   Chip select (MCP603)
*   Variation in specs vs. Power Supply Voltage
*   Distortion (detailed non-linear behavior)
*   Temperature analysis
*   Process variation
*   Behavior outside normal operating region
*
* Input Stage
V10  3 10 1.20
R10 10 11 4.55K
R11 10 12 4.55K
C11 11 12 3.67P
C12  1  0 6.00P
E12  1 14 POLY(4) 20 0 21 0 26 0 27 0   1.00M 24.3 24.3 1 1
I12 14  0 1.50P
M12 11 14 15 15 NMI L=2.00U W=42.0U
C13 14  2 3.00P
M14 12  2 15 15 NMI L=2.00U W=42.0U
I14  2  0 500E-15
C14  2  0 6.00P
I15 15  4 115U
V16 16  4 300M
D16 16 15 DL
V13  3 13 1.55
D13 14 13 DL
*
* Noise, PSRR, and CMRR
I20 21 20 423U
D20 20  0 DN1
D21  0 21 DN1
G26  0 26 POLY(1) 3 4   -220U 40.0U
R26 26  0 1
G27  0 27 POLY(2) 1 3 2 4   -176U 32.0U 32.0U
R27 27  0 1
*
* Open Loop Gain, Slew Rate
G30  0 30 POLY(1) 12 11   0 1.00K
R30 30  0 1
E31 31  0 POLY(1) 3 4   104 3.89
D31 30 31 DL
E32  0 32 POLY(1) 3 4   104 6.81
D32 32 30 DL
G33  0 33 POLY(1) 30 0   0 333
R33 33  0 1
C33 33  0 18.1M
G34  0 34 POLY(1) 33 0   0 1.00
R34 34  0 1.00
C34 34  0 33.4N
G35  0 35 POLY(2) 34 0 33 34   0 1.00 2.00
R35 35  0 1.00
*
* Output Stage
G50  0 50 POLY(1) 57 5   0 5.00
D51 50 51 DL
R51 51  0 1K
D52 52 50 DL
R52 52  0 1K
G53  3  0 POLY(1) 51 0   115U  1M
G54  0  4 POLY(1) 52 0   115U  -1M
E55 55  0 POLY(2) 3 0 51 0   -10M 1 -22.0M
D55 57 55 DLS
E56 56  0 POLY(2) 4 0 52 0    10M 1 -21.0M
D56 56 57 DLS
G57  0 57 POLY(3) 3 0 4 0 35 0   0 769U 769U 1.54M
R57 57  0 650
R58 57  5 200M
C58  5  0 2.00P
*
* Models
.MODEL NMI NMOS
.MODEL DL  D   N=1   IS=1F
.MODEL DLS D   N=10M IS=1F
.MODEL DN1 D   IS=1F KF=135E-18 AF=1
*
.ENDS MCP601

********************************************************************************
* MCP604 quad wrapper (added locally, not part of the Microchip file).
* Four MCP601 macromodels sharing supplies; nodes follow the physical
* SOIC/TSSOP-14 pin numbers so KiCad's multi-unit MCP604 symbol maps 1:1.
*   1 OUTA  2 -INA  3 +INA  4 VDD  5 +INB  6 -INB  7 OUTB
*   8 OUTC  9 -INC 10 +INC 11 VSS 12 +IND 13 -IND 14 OUTD
********************************************************************************
.SUBCKT MCP604 OUTA INAN INAP VDD INBP INBN OUTB OUTC INCN INCP VSS INDP INDN OUTD
XA INAP INAN VDD VSS OUTA MCP601
XB INBP INBN VDD VSS OUTB MCP601
XC INCP INCN VDD VSS OUTC MCP601
XD INDP INDN VDD VSS OUTD MCP601
.ENDS MCP604
